US05204011
Preparation of Bis[4-(benzenesulfonyloxy)phenyl] Ether
An oven-dried 100 ml 3-necked flask is equipped with a magnetic stirring bar, a reflux condenser carrying a CaCl2 -Drierite drying tube, and a heating mantle, and is charged with 4,4'-oxydiphenol (Pfaltz & Bauer (4.2 grams, 20.8 mmol), 4-dimethylaminopyridine (0.5 gram, 4.1 mmol), and anhydrous Et3N (40 ml), and the stirred solution is treated slowly with benzenesulfonyl chloride (6 ml, 47 mmol) via syringe. The resulting mixture is heated at reflux for 9 hours. Workup consists of partitioning the reaction mixture between CH2Cl2 (100 ml) and a mixture of water (150 ml) and concentrated HCl (40 ml), then washing the organic phase successively with 100 ml portions of water, 5 percent NaOH, water, and saturated brine. Drying (MgSO4), filtration and concentration gives a red oily residue. TLC analysis on silica gel shows one major component (Rf =0.36; CH2Cl2), and some minor more polar components. Chromatography on a column packed with flash-grade silica gel (6"×1" i.d.), eluting with CH2Cl2, gives 7.64 grams of a faintly yellowish oil, which solidifies on standing. Recrystallization from a mixture of EtOAc (20 ml) and water (10 ml) affords 6.23 grams (62 percent yield) of the title compound as a white crystalline solid, m.p. 129° C. to 130° C.

reactant | 4,4'-oxydiphenol | O(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C12H10O3
reactant | Et3N | 40 ml | CCN(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 47 mmol, 6 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
catalyst | 4-dimethylaminopyridine | 4.1 mmol, 0.5 gram | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Bis[4-(benzenesulfonyloxy)phenyl] Ether | 6.23 grams, 62 percent yield | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C(C=C1)OC1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1 | C24H18O7S2
